US05519034
A mixture of the oil, toluene (60 ml), pyridine (2.2 ml) and phthalic anhydride (4 g) was heated at 90°-95° C. for 4 hours. The resulting solution was cooled, washed with 10% aqueous potassium carbonate solution, then with dilute hydrochloric acid. The solution was then dried over sodium sulphate and the solvent removed in vacuo to yield an oil. The oil was distilled, (b.p. 120° C./1 mbar) to give 2,3-dihydrobenzo[b]furan-7-ylacetonitrile which rapidly solidified (16.97 g).

reactant | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
reactant | phthalic anhydride | 4 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | pyridine | 2.2 ml | N1=CC=CC=C1 | C5H5N
product | 2,3-dihydrobenzo[b]furan-7-ylacetonitrile | O1C2=C(CC1)C=CC=C2CC#N | C10H9NO
